US08580972B2
12.92 g (0.32 mol) of a 60% sodium hydride dispersion in mineral oil were suspended in 400 mL of tetrahydrofuran. After cooling to 0-5° C., a solution containing 45 g (0.16 mol) of methyl 2-(4-chlorophenoxy)phenylacetate (compound VIIIb), as obtained in Example 6, in 300 mL of tetrahydrofuran, was added dropwise while keeping the temperature below 10° C. After the addition, the reaction mixture was stirred at 0-5° C. for 30 minutes. Then, 36.3 g (0.60 mol) of methyl formate were added dropwise, while keeping the temperature below 10° C. After the addition, the reaction mixture was stirred at room temperature overnight. 50 mL of 2 M aqueous hydrochloric acid were added. Then, 200 mL of ethyl acetate were added and the phases were decanted. The organic phase was extracted and washed with 200 mL of water and 200 mL of saturated sodium chloride. The organic phase was concentrated to dryness under reduced pressure, to obtain 40 g of methyl 2-[2-(4-chlorophenoxy)phenyl]-3-hydroxyacrylate (compound IXb) after chromatographic purification. Yield: 80.7%.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-(4-chlorophenoxy)phenylacetate | 0.16 mol, 45 g | ClC1=CC=C(OC2=C(C=CC=C2)CC(=O)OC)C=C1 | C15H13ClO3
reactant | methyl formate | 0.60 mol, 36.3 g | C(=O)OC | C2H4O2
reactant | hydrochloric acid | 2 M, 50 mL | Cl | ClH
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-[2-(4-chlorophenoxy)phenyl]-3-hydroxyacrylate | 40 g, Yield: 80.7% | ClC1=CC=C(OC2=C(C=CC=C2)C(C(=O)OC)=CO)C=C1 | C16H13ClO4
